US04567184
2-(3-Hexanoylphenoxy)methyl quinoline
This ketone (1.2 g) was refluxed with 2-chloromethyl-quinoline hydrochloride (1.3 g), potassium carbonate (8.6 g), potassium iodide (0.05 g) and cesium carbonate (0.05 g) in acetone (300 ml) for 24 hours. The reaction mixture was filtered, and the filtrate was concentrated, dissolved in chloroform, and then washed with sodium hydroxide solution (5%), water and brine. After drying, all volatiles were removed. The residue was purified by chromatography on silica gel (25% ethyl acetate in hexanes). The pure desired product was isolated as a tan solid, m.p. 52°-55° C.

reactant | 2-chloromethyl-quinoline hydrochloride | 1.3 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | potassium carbonate | 8.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.05 g | [I-].[K+]
reactant | cesium carbonate | 0.05 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 2-(3-Hexanoylphenoxy)methyl quinoline | C(CCCCC)(=O)C=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1 | C22H23NO2
